US04020129
203 g of ammonium-O,O-diethyldithiophosphate was added within 5 minutes with agitation to 485 g of 75% phosphoric acid. The reaction temperature dropped from initially 24° C down to 17° C after a post-reaction period of 10 minutes. The liquid reaction mixture was delivered to a separating vessel. It was allowed to remain therein for 10 minutes and 182.9 g of dithiophosphoric acid-O,O-diethylester was obtained as the upper phase. The yield was 98.2% of the theoretical, based on the ammonium-O,O-diethyldithiophosphate used. The product so made had a purity of 99.9% (AgNO3 and NaOH-values) (nD25 = 1.5108).

reactant | ammonium O,O-diethyldithiophosphate | 203 g | [NH4+].CCOP(=S)(OCC)S
reactant | phosphoric acid | 485 g | P(O)(O)(O)=O | H3O4P
product | dithiophosphoric acid-O,O-diethylester | 182.9 g, yield was 98.2% | C(C)OP(OCC)(S)=S | C4H11O2PS2
